US04443452
5,10-Dihydro-5-{[(1-methyl-4-piperidinyl)amino]carbonyl}-11H-dibenzo[b,e][1,4]diazepin-11-one
Amounts of 3.2 gm (0.012 mol) of 5-chlorocarbonyl-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one and 2.1 gm (0.02 mol) of sodium carbonate were refluxed in 100 ml of acetonitrile together with 2.3 ml (0.02 mol) of 4-amino-1-methyl-piperidine for 15 minutes under stirring. The mixture was filtered while hot, and the filtrate was purified over a silica gel column [eluant: acetonitrile; followed by methylene chloride/ethyl acetate/cyclohexane/methanol/ammonia (175:75:23:23:3)]. The desired fraction was concentrated by evaporation in vacuo, and the residue was recrystallized from 50% aqueous acetonitrile.

reactant | 5-chlorocarbonyl-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | 0.012 mol, 3.2 gm | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C14H9ClN2O2
reactant | sodium carbonate | 0.02 mol, 2.1 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-amino-1-methyl-piperidine | 0.02 mol, 2.3 ml | NC1CCN(CC1)C | C6H14N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5,10-Dihydro-5-{[(1-methyl-4-piperidinyl)amino]carbonyl}-11H-dibenzo[b,e][1,4]diazepin-11-one | CN1CCC(CC1)NC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C20H22N4O2
